US08466180B2
4-Fluoro-N-(3-nitro-phenyl)-benzamide (10.0 g, 36.2 mmol) (Example I5) was dissolved in isopropanol (150 ml) and tin chloride (24.7 g, 130.3 mmol) was added. The mixture was cooled to 0° C. and a solution of concentrated hydrochloric acid (20 ml) was added slowly. The reaction mixture was stirred at 80° C. for 2 hours. Then ⅓ of the total volume of isopropanol was evaporated. Water (200 ml) was added to the concentrated mixture and a solution of aqueous sodium hydroxide (4N) was added to adjust the pH to 7-8. The phases were separated and the aqueous phase was extracted three times with ethyl acetate (200 ml). The combined organic extracts were dried over sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate) to give N-(3-amino-phenyl)-4-fluoro-benzamide (5 g, 60% yield). 1H-NMR (CDCl3, 400 MHz): 7.93 (m, 2H), 7.27 (t, 2H), 7.01 (m, 1H), 6.89 (t, 1H), 6.78 (d, 1H), 5.01 (s, 2H) ppm.

reactant | 4-Fluoro-N-(3-nitro-phenyl)-benzamide | 36.2 mmol, 10.0 g | FC1=CC=C(C(=O)NC2=CC(=CC=C2)[N+](=O)[O-])C=C1 | C13H9FN2O3
reactant | tin chloride | 130.3 mmol, 24.7 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | N-(3-amino-phenyl)-4-fluoro-benzamide | 5 g, 60% yield | NC=1C=C(C=CC1)NC(C1=CC=C(C=C1)F)=O | C13H11FN2O
